US08808702B2
Synthesis of (E)-1-(4-Bromophenyl)-2-(4-bromophenylthio)-3-(2,4-dichlorophenyl)-prop-2-en-1-one
The title compound is prepared by the methods described in Synthesis Example 1. A solution of 1-(4-bromophenyl)-2-(4-bromophenylthio)ethanone (10 mmol) and 2,4-dichlorobenzaldehyde (10 mmol) was subjected to the procedure described as Method B in part C of Synthesis Example 1 and the product obtained was purified by column chromatography.

reactant | 1-(4-bromophenyl)-2-(4-bromophenylthio)ethanone | 10 mmol | BrC1=CC=C(C=C1)C(CSC1=CC=C(C=C1)Br)=O | C14H10Br2OS
reactant | 2,4-dichlorobenzaldehyde | 10 mmol | ClC1=C(C=O)C=CC(=C1)Cl | C7H4Cl2O
product | (E)-1-(4-Bromophenyl)-2-(4-bromophenylthio)-3-(2,4-dichlorophenyl)-prop-2-en-1-one | BrC1=CC=C(C=C1)C(/C(=C\C1=C(C=C(C=C1)Cl)Cl)/SC1=CC=C(C=C1)Br)=O | C21H12Br2Cl2OS
